US07563787B2
1-(6-(5-methyl-1H-pyrazol-3-ylamino)-2-styrylpyrimidin-4-yl)piperidin-4-ol
Example 101 was synthesized via Scheme 6 according to the general scheme provided above with the appropriate starting materials cinnamonitrile, 5-methyl-1H-pyrazole-3-amine, and O-protected piperidin-4-ol. Structure of the target was confirmed by 1H-NMR. The 1H-NMR is attached.

reactant | cinnamonitrile | C(C=CC1=CC=CC=C1)#N | C9H7N
reactant | 5-methyl-1H-pyrazole-3-amine | CC1=CC(=NN1)N | C4H7N3
reactant | piperidin-4-ol | N1CCC(CC1)O | C5H11NO
product | 1-(6-(5-methyl-1H-pyrazol-3-ylamino)-2-styrylpyrimidin-4-yl)piperidin-4-ol | CC1=CC(=NN1)NC1=CC(=NC(=N1)C=CC1=CC=CC=C1)N1CCC(CC1)O | C21H24N6O
